### PR TITLE
[Merged by Bors] - feat: API for binomial distribution

### PR DESCRIPTION
**Pull request by EtienneC30**
Provide basic API regarding the binomial distribution, computing the measure of singletons and writing it as a sum of Dirac masses. Provide basic results regarding integrability.
Deprecate [PMF.binomial](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/ProbabilityMassFunction/Binomial.html#PMF.binomial).

---

As I explain in the module docstring, I am proving most results in two versions: one for the measure over `Nat` and one for the cast version. This obviously leads to some duplications, I think it's fine but I am happy to hear other ideas.

- [x] depends on: #37534
- [x] depends on: #37541
- [x] depends on: #37543
- [x] depends on: #37739
- [x] depends on: #40078

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Dirac.lean [hunk 1]
```diff
@@ -123,6 +123,8 @@ theorem _root_.MeasureTheory.ext_iff_measureReal_singleton [Countable α]
   rw [measureReal_def, measureReal_def, ENNReal.toReal_eq_toReal_iff]
   simp [measure_singleton_lt_top, ne_of_lt]
 
+alias ⟨_, ext_of_measureReal_singleton⟩ := MeasureTheory.ext_iff_measureReal_singleton
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Dirac.lean:126]: splice-bot

File: Mathlib/Probability/Distributions/Binomial.lean [hunk 2]
```diff
@@ -34,31 +47,167 @@ and computes their expectation and variance.
...
 /-- The binomial probability distribution with parameter `p`. -/
 scoped notation3 "Bin(" n ", " p ")" => binomial n p
 
 /-- The binomial probability distribution with parameter `p` valued in the semiring `R`. -/
 scoped notation3 "Bin(" R ", " n ", " p ")" => (binomial n p).map (Nat.cast : ℕ → R)
 
+@[simp]
+lemma binomial_nat : Bin(ℕ, n, p) = Bin(n, p) := map_id
+
+lemma binomial_zero : Bin(0, p) = dirac 0 := by simp [binomial]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Binomial.lean:70]: Should this one be `@[simp]`? Or does the map_cast lemma apply?

File: Mathlib/Probability/Distributions/Binomial.lean [hunk 3]
```diff
@@ -34,31 +47,167 @@ and computes their expectation and variance.
...
+@[simp]
+lemma binomial_nonneg {k : ℕ} : (0 : ℝ) ≤ (n.choose k) * p ^ k * (1 - p) ^ (n - k) :=
+    mul_nonneg (mul_nonneg (by positivity) (pow_nonneg (by grind) _)) (pow_nonneg (by grind) _)
+
+lemma map_cast_binomial_singleton [MeasurableSingletonClass R] [CharZero R] (n k : ℕ) (p : I) :
+    Bin(R, n, p) {(k : R)} = ENNReal.ofReal ((n.choose k) * p ^ k * (1 - p) ^ (n - k)) := by
+  rw [← ENNReal.ofReal_toReal (a := Bin(R, n, p) _) (by simp), ← measureReal_def,
+    map_cast_binomial_real_singleton]
+
+lemma binomial_real_zero (n : ℕ) (p : I) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Binomial.lean:113]: simp?

File: Mathlib/Probability/Distributions/Binomial.lean [hunk 4]
```diff
@@ -34,31 +47,167 @@ and computes their expectation and variance.
...
+    Bin(n, p).real {0} = (1 - p) ^ n := by simp [binomial_real_singleton]
+
+lemma map_cast_binomial_real_zero [MeasurableSingletonClass R] [CharZero R] (n : ℕ) (p : I) :
+    Bin(R, n, p).real {0} = (1 - p) ^ n := by
+  rw [← Nat.cast_zero, map_cast_binomial_real_singleton]
+  simp
+
+lemma binomial_real_self (n : ℕ) (p : I) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Binomial.lean:123]: simp?

File: Mathlib/Probability/Distributions/Binomial.lean [hunk 5]
```diff
@@ -34,31 +47,167 @@ and computes their expectation and variance.
...
+    Bin(n, p).real {n} = p ^ n := by simp [binomial_real_singleton]
+
+lemma map_cast_binomial_real_self [MeasurableSingletonClass R] [CharZero R] (n : ℕ) (p : I) :
+    Bin(R, n, p).real {(n : R)} = p ^ n := by simp [map_cast_binomial_real_singleton]
+
+lemma binomial_one_eq_bernoulliMeasure (p : I) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Binomial.lean:131]: Should that be also a simp lemma?

**Review by RemyDegenne — COMMENTED** [review]
Looks good! I have a few suggestions about simp lemmas.

File: Mathlib/Probability/Distributions/Binomial.lean (hunk 2 above)
Comment (EtienneC30) [reply Mathlib/Probability/Distributions/Binomial.lean:70]: I wanted to make it `simp`, but if I do that I can't make `map_cast_binomial_zero` `simp` because `binomial_zero` will rewrite `Bin(0, p)` so the lemma cannot apply. I decided I preferred `map_cast_binomial_zero` to be `simp`.

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors r+
